US09328134B2
In a 1000 mL round bottom flask, Dess-Martin periodinane (110 g, 261.62 mmol, Spectrochem, India) was added to a solution of (3aS,6R,6aS)-6-((R)-2,2-dimethyl-1,3-dioxolan-4-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-ol (45 g, 174 mmol) in anhydrous DCM (900 mL) at rt. The resulting mixture was stirred for 15 minutes and treated with t-BuOH (14.16 g, 191.4 mmol, Rankem, India) at rt. The resulting reaction mixture was stirred at rt for 3 days under an argon atmosphere. Upon completion of the reaction (TLC, 30% EtOAc-hexanes, Rf, 0.55), the reaction mixture was quenched with aqueous Na2S2O3 (1000 mL) and extracted with DCM (4×250 mL). The combined organic extracts were washed with saturated NaHCO3 (500 mL), brine (200 mL), and then dried over anhydrous Na2SO4. The solution was concentrated under reduced pressure, and the residue obtained was washed with n-pentane to give (3aS,6R,6aS)-6-((R)-2,2-dimethyl-1,3-dioxolan-4-yl)-2,2-dimethyldihydrofuro[3,4-d][1,3]dioxol-4(3aH)-one as a colorless solid (35 g, 78%): 1H NMR (400 MHz, CDCl3) δ 4.87 (dd, J=3.2, 5.2 Hz, 1H), 4.83 (d, J=5.2 Hz, 1H), 4.43-4.31 (m, 1H), 4.38-4.37 (m, 1H), 4.13 (dd, J=5.7, 9.2 Hz, 1H), 4.06 (dd, J=5.6, 9.2 Hz, 1H), 1.48 (s, 3H), 1.46 (s, 3H), 1.42 (s, 3H), 1.39 (s, 3H).

reactant | Dess-Martin periodinane | 261.62 mmol, 110 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | (3aS,6R,6aS)-6-((R)-2,2-dimethyl-1,3-dioxolan-4-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-ol | 174 mmol, 45 g | CC1(OC[C@@H](O1)[C@H]1OC([C@@H]2[C@H]1OC(O2)(C)C)O)C | C12H20O6
reactant | t-BuOH | 191.4 mmol, 14.16 g | CC(C)(C)O | C4H10O
solvent | DCM | 900 mL | C(Cl)Cl | CH2Cl2
product | (3aS,6R,6aS)-6-((R)-2,2-dimethyl-1,3-dioxolan-4-yl)-2,2-dimethyldihydrofuro[3,4-d][1,3]dioxol-4(3aH)-one | 35 g, 78% | CC1(OC[C@@H](O1)[C@H]1OC([C@@H]2[C@H]1OC(O2)(C)C)=O)C | C12H18O6
